US09388189B2
(S)-tert-Butyl (3-(benzyloxy)-1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate
(S)-tert-Butyl (4-(benzyloxy)-1-oxo-1-((2-(phenylcarbamoyl)-1H-pyrrol-1-yl)amino)butan-2-yl)carbamate (1.57 g, 3.19 mmol) was treated with triphenylphosphine (1.17 g, 4.46 mmol), bromine (229 μl, 4.47 mmol), triethylamine (1.78 mL, 12.77 mmol) and a solution of ammonia solution (7M in methanol, 150 mL, 1000 mmol) according to the method of Preparation 5b. The residue was purified using SP1® Purification System (0% to 30%, hexane-ethyl acetate) to give 0.81 g (53.5%) of the title compound as a white solid. Purity 100%.

reactant | (S)-tert-Butyl (4-(benzyloxy)-1-oxo-1-((2-(phenylcarbamoyl)-1H-pyrrol-1-yl)amino)butan-2-yl)carbamate | 3.19 mmol, 1.57 g | C(C1=CC=CC=C1)OCC[C@@H](C(NN1C(=CC=C1)C(NC1=CC=CC=C1)=O)=O)NC(OC(C)(C)C)=O | C27H32N4O5
reactant | triphenylphosphine | 4.46 mmol, 1.17 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 4.47 mmol, 229 μl | BrBr | Br2
reactant | triethylamine | 12.77 mmol, 1.78 mL | C(C)N(CC)CC | C6H15N
reactant | ammonia | 1000 mmol, 7M, 150 mL | N | H3N
product | (S)-tert-Butyl (3-(benzyloxy)-1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate | 0.81 g, 53.5% | C(C1=CC=CC=C1)OCC[C@@H](C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2)NC(OC(C)(C)C)=O | C27H30N4O4
